US04508649
4-(R)-t-butyldiphenylsilyloxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)-azetidin-2-one
A solution in THF of 4(R)-t-butyldiphenylsilyoxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-chloromethyl)-azetidin-2-one, obtained from the previous example, was treated with Ph3P (2.2 g, 8.5 mmole) and silica gel (20 g).

reactant | 4(R)-t-butyldiphenylsilyoxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-chloromethyl)-azetidin-2-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(=O)S[C@@H]1[C@H](C(N1C(Cl)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C40H40ClN3O12SSi
reactant | Ph3P | 8.5 mmole, 2.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | C1CCOC1 | C4H8O
product | 4-(R)-t-butyldiphenylsilyloxyacetylthio-3(S)-[1(R)-p-nitrobenzyloxycarbonyloxyethyl]-1-(1-p-nitrobenzyloxycarbonyl-1-triphenylphosphoranylidenemethyl)-azetidin-2-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(=O)S[C@@H]1[C@H](C(N1C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C58H54N3O12PSSi
